US08895580B2
Step 3: Preparation of 2-(2-fluorophenyl)-5-{[4-(methoxy)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
Ethyl {[4-(methoxy)phenyl]methyl}-4-thioxo-1,4-dihydroquinoline-3-carboxylate (128 mg, 0.362 mmol), 2-fluorophenylhydrazine hydrochloride (88. mg, 0.543 mmol, 1.5 equiv) and potassium carbonate (250 mg, 1.81 mmol, 5 equiv) were combined in absolute ethanol (5 mL) and placed into an oil bath preheated at 70° C. for 14 hours. Additional hydrazine (120 mg, 1.09 mmol, 3 equiv) was added and the mixture was heated for an additional 24 hours at 70° C. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (20 mL, aqueous saturated) and extracted with ethyl acetate (1×75 mL). The organic extract was dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 95:5; dichloromethane:methanol), providing the titled compound: 1H-NMR (500 MHz, d6-DMSO) δ 9.10 (1H, s), 8.19 (1H, dd, J=8.0, 1.3 Hz), 7.81 (1H, d, J=8.7 Hz), 7.64-7.58 (2H, m), 7.53 (1H, t, J=7.6 Hz), 7.47-7.43 (1H, m), 7.40 (1H, ddd, J=10.2, 8.3, 1.3 Hz), 7.35-7.31 (1H, m), 7.30 (2H, d, J=8.6 Hz), 6.92 (2H, d, J=8.6 Hz), 5.66 (2H, s), 3.71 (3H, s) ppm; high resolution mass spectrometry (ES+) m/z 400.1461 [(M+H)+; calculated for C24H18FN3O2: 400.1456].

reactant | Ethyl {[4-(methoxy)phenyl]methyl}-4-thioxo-1,4-dihydroquinoline-3-carboxylate | 0.362 mmol, 128 mg | COC1=CC=C(C=C1)CN1C=C(C(C2=CC=CC=C12)=S)C(=O)OCC | C20H19NO3S
reactant | 2-fluorophenylhydrazine hydrochloride | 0.543 mmol, 1.5 equiv | Cl.FC1=C(C=CC=C1)NN
reactant | potassium carbonate | 1.81 mmol, 250 mg, 5 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine | 1.09 mmol, 120 mg, 3 equiv | NN | H4N2
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(2-fluorophenyl)-5-{[4-(methoxy)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | FC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2=CC=C(C=C2)OC)C1=O | C24H18FN3O2
